US07435818B2
To a 100 mL reactor was charged amorphous irinotecan acetate (2.0 g) and methanol (14 mL). The reaction mixture was heated to 50° C. 2N hydrochloric acid (6.2 wt %, about 1.7 mL) was added to adjust the pH level to less than 4 in order to dissolve the solid particles. Ethyl acetate (40 mL) was added slowly to the mixture. The mixture was cooled to 0˜10° C. and stirred at this temperature for 1 hour. The solid particles were filtered and washed with cooled ethyl acetate (6 mL). The wet cake was dried in vacuum to give 1.66 g of irinotecan hydrochloride trihydrate Form III.

reactant | irinotecan acetate | 2.0 g | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7.C(C)(=O)[O-]
reactant | methanol | 14 mL | CO | CH4O
reactant | hydrochloric acid | 2N, about 1.7 mL | Cl | ClH
solvent | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | irinotecan hydrochloride trihydrate | 1.66 g | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7.O.O.O.Cl | InChI=1S/C33H38N4O6.ClH.3H2O/c1-3-22-23-16-21(43-32(40)36-14-10-20(11-15-36)35-12-6-5-7-13-35)8-9-27(23)34-29-24(22)18-37-28(29)17-26-25(30(37)38)19-42-31(39)33(26,41)4-2;;;;/h8-9,16-17,20,41H,3-7,10-15,18-19H2,1-2H3;1H;3*1H2/t33-;;;;/m0..../s1
